US04923857
A solution of 1-allyloxycarbonyl-3-t-butyldimethylsilyloxymethylpyrrolidine (29.95 g) in a mixture of concentrated hydrochloric acid (15 ml) and methanol (150 ml) was stirred at ambient temperature for one hour. A 28% solution of sodium methoxide in methanol (35 ml) was added to the mixture. Insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (400 g) and eluted with ethyl acetate to give 1-allyloxycarbonyl-3-hydroxymethylpyrrolidine (19.01 g).

reactant | 1-allyloxycarbonyl-3-t-butyldimethylsilyloxymethylpyrrolidine | 29.95 g | C(C=C)OC(=O)N1CC(CC1)CO[Si](C)(C)C(C)(C)C | C15H29NO3Si
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 1-allyloxycarbonyl-3-hydroxymethylpyrrolidine | 19.01 g | C(C=C)OC(=O)N1CC(CC1)CO | C9H15NO3
